US07241791B2
7-chloro-3-(4-methoxyphenyl)-1H-indazole
Prepared according to Method D Step A from (3-chloro-2-fluoro-phenyl)-(4-methoxyphenyl)-methanone (0.84 g, 3.2 mmol), hydrazine hydrate (1.0 mL, 32 mmol) and DMAP (0.39 g, 3.2 mmol) to give the product (0.75 g) as a white solid.

reactant | (3-chloro-2-fluoro-phenyl)-(4-methoxyphenyl)-methanone | 3.2 mmol, 0.84 g | ClC=1C(=C(C=CC1)C(=O)C1=CC=C(C=C1)OC)F | C14H10ClFO2
reactant | hydrazine hydrate | 32 mmol, 1.0 mL | O.NN
catalyst | DMAP | 3.2 mmol, 0.39 g | CN(C)C=1C=CN=CC1 | C7H10N2
product | 7-chloro-3-(4-methoxyphenyl)-1H-indazole | 0.75 g | ClC=1C=CC=C2C(=NNC12)C1=CC=C(C=C1)OC | C14H11ClN2O
